US08729102B2
Triethylamine (1.22 ml) was added to a solution of hexachloroethane (648 mg) and triphenylphosphine (862 mg) in acetonitrile (5 mL) at room temperature. The mixture was stirred at room temperature for 10 min. Then a mixture of tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]pyridin-3-yl}oxy)-1-methylethyl]carbamate (442 mg) and acetonitrile (5 mL) was added, and the mixture was stirred at room temperature overnight. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give a mixture of tert-butyl [(1S)-2-{[6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate and tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]pyridin-3-yl}oxy)-1-methylethyl]carbamate. Triethylamine (1.22 ml) was added to a solution of hexachloroethane (648 mg) and triphenylphosphine (862 mg) in acetonitrile (5 mL) at room temperature. The mixture was stirred at room temperature for 10 min. Then a mixture of tert-butyl [(1S)-2-{[6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate and tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]pyridin-3-yl}oxy)-1-methylethyl]carbamate, and acetonitrile (5 mL) were added, and the mixture was stirred at room temperature overnight. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give tert-butyl [(1S)-2-{[6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate (640 mg) as a mixture with impurities. A mixture of tert-butyl [(1S)-2-{[6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate (640 mg, a mixture with impurities), 1-bromopropan-2-one (455 mg), potassium carbonate (459 mg), and DMF (10 mL) was stirred at 60° C. for 1 hr. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give tert-butyl [(1S)-1-methyl-2-({6-[6-(2-oxopropoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)ethyl]carbamate (630 mg) as a mixture with impurities. Bis(2-methoxyethyl)aminosulfur trifluoride (0.789 mL) was added to a mixture of tert-butyl [(1S)-1-methyl-2-({6-[6-(2-oxopropoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)ethyl]carbamate (630 mg, a mixture with impurities) and toluene (10 mL) at room temperature. The mixture was stirred at 80° C. for 2 hr. Saturated sodium hydrogen carbonate solution was added, and the mixture was extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (111 mg) as a white solid.

reactant | tert-butyl [(1S)-2-{[6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate | OC1=CC2=C(N=C(O2)C2=CC=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C20H23N3O5
reactant | 1-bromopropan-2-one | 455 mg | BrCC(C)=O | C3H5BrO
reactant | potassium carbonate | 459 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | tert-butyl [(1S)-1-methyl-2-({6-[6-(2-oxopropoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)ethyl]carbamate | 630 mg | C[C@@H](COC=1C=NC(=CC1)C=1OC2=C(N1)C=CC(=C2)OCC(C)=O)NC(OC(C)(C)C)=O | C23H27N3O6
